US06211234B1
A mixture of 2-hydroxy-4-(3-thienylmethoxy)benzaldehyde (7.7 g), nitroethane (4.74 mL), sodium acetate (5.4 g) and glacial acetic acid (6.6 mL) is heated at reflux for 14 hours. The mixture is then cooled, diluted with water (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic extracts are washed with saturated aqueous sodium bicarbonate solution (3×50 mL), dried over magnesium sulphate, and concentrated in vacuo. The resulting residue is subjected to flash chromatography on silica gel, eluting with a mixture of ethyl acetate and pentane (3:7 v/v), to give 2-hydroxy-4-(3-thienylmethoxy)benzonitrile (7.6 g), in the form of a pale yellow solid.

reactant | 2-hydroxy-4-(3-thienylmethoxy)benzaldehyde | 7.7 g | OC1=C(C=O)C=CC(=C1)OCC1=CSC=C1 | C12H10O3S
reactant | nitroethane | 4.74 mL | [N+](=O)([O-])CC | C2H5NO2
reactant | sodium acetate | 5.4 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 6.6 mL | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
product | 2-hydroxy-4-(3-thienylmethoxy)benzonitrile | 7.6 g | OC1=C(C#N)C=CC(=C1)OCC1=CSC=C1 | C12H9NO2S
